US06667316B1
A mixture of 2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4,5-dinitroisoindoline-1,3-dione (4.35 g, 8.81 mmol) and Pd/C (800 mg) in ethyl acetate (200 mL) was shaken under hydrogen (50-60 psi) in a Parr bottle for 16 hours. The suspension was filtered through a pad of Celite filter material. The Celite filter material was washed with acetone (200 mL). The solvent was removed in vacuo to give a solid. The solid was stirred in ethyl acetate (10 mL) for 2 hours. The suspension was filtered to give 2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4,5-diaminoisoindoline-1,3-dione as a yellow solid (2.79 g, 73% yield): mp, 205-207° C.; 1H NMR (DMSO-d6) δ1.32 (t, J=6.9 Hz, 3H, CH3), 2.99 (s, 3H, CH3), 3.73 (s, 3H, CH3), 3.95-4.07 (m, 3H, CHH), 4.37 (dd, J=10.4, 14.0 Hz, 1H, CHH), 5.67 (dd, J=3.9, 10.2 Hz, 1H, NCH), 5.90-6.00 (m, 4H, 2NH2), 6.64 (d, J=7.7 Hz, 1 H, Ar), 6.88-6.92 (m, 3H, Ar), 7.06 (s, 1H, Ar); 13C NMR (CDCl3) δ14.64, 40.94, 46.65, 53.53, 55.46, 63.79, 109.36, 111.74, 112.29, 114.42, 117.04, 119.55, 130.68, 133.98, 134.06, 142.38, 147.74, 148.63, 167.16, 169.38; Anal Calcd for C20H23N3O6S: C, 55.42; H, 5.35; N, 9.69. Found: C, 55.71; H, 5.30; N, 9.29. MS: 434 (M++1), 456 (M++23 Na).

reactant | 2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4,5-dinitroisoindoline-1,3-dione | 8.81 mmol, 4.35 g | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=C(C(=C2C1=O)[N+](=O)[O-])[N+](=O)[O-])=O | C20H19N3O10S
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 800 mg | [Pd] | Pd
product | 2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4,5-diaminoisoindoline-1,3-dione | 2.79 g, 73% yield | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=C(C(=C2C1=O)N)N)=O | C20H23N3O6S
